US08440663B2
A mixture of 4-bromo-N-(4-morpholin-4-ylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine B (284 mg, 0.76 mmol), 4-acetoamidophenylboronic acid C (340 mg, 2.5 eq), tetrakis(triphenyl-phosphine)palladium(0) (120 mg, 0.1 mmol), and 1M Na2CO3 (1 ml, 1 mmol) in 1,4-dioxane (15 ml) was heated at reflux overnight. The mixture was cooled, extracted with 3N HCl. The aqueous layer was washed with ethylacetate, and then basified with 6N NaOH. The solid was filtered, and the crude product was purified by preparative HPLC to give the product N-(4-{2-[(4-morpholin-4-ylphenyl)amino]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}phenyl)acetamide D (0.8 mg, 0.25%) as a yellow solid.

reactant | 4-bromo-N-(4-morpholin-4-ylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | BrC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCOCC1)NC=C2 | C16H16BrN5O
reactant | 4-acetoamidophenylboronic acid | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | Na2CO3 | 1 mmol, 1M, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-(4-{2-[(4-morpholin-4-ylphenyl)amino]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}phenyl)acetamide | N1(CCOCC1)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)NC=C2)C2=CC=C(C=C2)NC(C)=O | C24H24N6O2
